US05817671
5-(N-[4-fluorobenzoyl]amino)-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.200 gm (0.88 mMol) 5-amino-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine and 0.114 mL (0.96 mMol) 4-fluorobenzoyl chloride, 0.260 gm (84%) of the title compound were prepared as an ivory solid essentially by the procedure described in Example 4. An analytical sample was crystallized from aqueous ethanol.

reactant | 5-amino-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine | 0.88 mMol, 0.200 gm | NC1=CC=C2C(=N1)C(=CN2)C=2CCN(CC2)C | C13H16N4
reactant | 4-fluorobenzoyl chloride | 0.96 mMol, 0.114 mL | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
product | 5-(N-[4-fluorobenzoyl]amino)-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)pyrrolo[3,2-b]pyridine | 0.260 gm, 84% | FC1=CC=C(C(=O)NC2=CC=C3C(=N2)C(=CN3)C=3CCN(CC3)C)C=C1 | C20H19FN4O
